US06251905B1
iii) Synthesis of 1,2-dihydro-1-[1-(trifluoromethanesulfonyl)piperidin-4-ylmethyl]-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one.hydrochloride
To a suspension of 494 mg (1.23 mmol) of 1,2-dihydro-1-[1-(trifluoromethanesulfonyl)piperidin-4-ylmethyl]-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one in 15 ml of methanol was added 0.13 ml of conc. HCl. The solvent was distilled off. The residue was treated with acetone and diethylether to give 526 mg of the desired compound (97.6%, colorless solid).

reactant | 1,2-dihydro-1-[1-(trifluoromethanesulfonyl)piperidin-4-ylmethyl]-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 1.23 mmol, 494 mg | FC(S(=O)(=O)N1CCC(CC1)CN1C(C=2N3C(C=CC=C13)=NC2C)=O)(F)F | C16H17F3N4O3S
reactant | HCl | 0.13 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 1,2-dihydro-1-[1-(trifluoromethanesulfonyl)piperidin-4-ylmethyl]-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one.hydrochloride | 526 mg, 97.6% | Cl.FC(S(=O)(=O)N1CCC(CC1)CN1C(C=2N3C(C=CC=C13)=NC2C)=O)(F)F | InChI=1S/C16H17F3N4O3S.ClH/c1-10-14-15(24)22(13-4-2-3-12(20-10)23(13)14)9-11-5-7-21(8-6-11)27(25,26)16(17,18)19;/h2-4,11H,5-9H2,1H3;1H
